US06924280B2
D. 2-tert-Butoxycarbonylamino-2-methyl-propionic acid 2,5-dioxo-pyrrolidin-1-yl ester
A stirred solution of N-hydroxysuccinimide (112 g, 0.973 mol), N-t-butoxycarbonyl-methylalanine (197 g, 0.969 mol), and 1-(3-dimethylaminopropyl)-3-ethyl-carbodiimide (186 g, 0.970 mol) in anhydrous dichloromethane (1.4 L) was stirred at room temperature for about 18 hours under nitrogen atmosphere. The reaction mixture was washed three times each with saturated sodium bicarbonate solution and then brine. The organic layer was dried over sodium sulfate, filtered and concentrated in vacuo to give the title compound of part 1-D as a white solid (256 g, 88%): PBMS (M+18)+ 318; 1H NMR=250 MHz (CDCl3) δ: 4.91 (NH, br s, 1H), 2.84 (—CO(CH2)2CO—, s, 4H), 1.67 (Me, s, 6H), 1.48 (BOC, s, 9H).

reactant | N-hydroxysuccinimide | 0.973 mol, 112 g | ON1C(CCC1=O)=O | C4H5NO3
reactant | N-t-butoxycarbonyl-methylalanine | 0.969 mol, 197 g | C(C)(C)(C)OC(=O)N([C@@H](C)C(=O)O)C | C9H17NO4
reactant | 1-(3-dimethylaminopropyl)-3-ethyl-carbodiimide | 0.970 mol, 186 g | CN(CCCN=C=NCC)C | C8H17N3
solvent | dichloromethane | 1.4 L | ClCCl | CH2Cl2
product | 2-tert-Butoxycarbonylamino-2-methyl-propionic acid 2,5-dioxo-pyrrolidin-1-yl ester | O=C1N(C(CC1)=O)OC(C(C)(C)NC(=O)OC(C)(C)C)=O | C13H20N2O6
